US08278290B2
1-Benzyl-4-iodo-1H-pyrazole
To a stirred suspension of 4-iodo-1H-pyrazole (1.50 g, 7.73 mmol) and potassium carbonate (2.67 g, 19.3 mmol) in acetone was added benzyl bromide (0.96 mL, 8.07 mmol) and the reaction was refluxed for 3 h. After cooling to room temperature the mixture was concentrated onto silica gel in vacuo and eluted through a short silica plug (sequential elution—hexane, 10% diethyl ether in hexanes) to provide the title compound as a white solid (2.12 g, 97% yield).

reactant | 4-iodo-1H-pyrazole | 7.73 mmol, 1.50 g | IC=1C=NNC1 | C3H3IN2
reactant | potassium carbonate | 19.3 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 8.07 mmol, 0.96 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | 1-Benzyl-4-iodo-1H-pyrazole | 2.12 g, 97% yield | C(C1=CC=CC=C1)N1N=CC(=C1)I | C10H9IN2
